simulator lang=spectre
global 0

ahdl_include "./dut/sar_weighted_sum.va"

Vd10 (d10 0) vsource type=pwl wave=[0 0 26n 0 26.1n 0.9 50n 0.9]
Vd9 (d9 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd8 (d8 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd7 (d7 0) vsource type=pwl wave=[0 0 16n 0 16.1n 0.9 26n 0.9 26.1n 0 36n 0 36.1n 0.9 50n 0.9]
Vd6 (d6 0) vsource type=pwl wave=[0 0 6n 0 6.1n 0.9 16n 0.9 16.1n 0 36n 0 36.1n 0.9 50n 0.9]
Vd5 (d5 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd4 (d4 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd3 (d3 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd2 (d2 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd1 (d1 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]
Vd0 (d0 0) vsource type=pwl wave=[0 0 36n 0 36.1n 0.9 50n 0.9]

XDUT (d10 d9 d8 d7 d6 d5 d4 d3 d2 d1 d0 vout) sar_weighted_sum


tran tran stop=45n maxstep=25p
save d10 d9 d8 d7 d6 d5 d4 d3 d2 d1 d0 vout
